US04178449
4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxamide
A mixture of 1.62 g. of 4-amino-5-imidazolecarboxamide hydrochloride, 2.43 g. of 3-dimethylamino-3'-trifluoromethylacrylophenone and 0.82 g. of sodium acetate in 25 ml. of glacial acetic acid is refluxed for 15 hours and then evaporated to dryness. The residue is treated as described in Example 1, giving the desired product, m.p. 239°-240° C.

reactant | 4-amino-5-imidazolecarboxamide hydrochloride | Cl.NC=1N=CNC1C(=O)N
reactant | 3-dimethylamino-3'-trifluoromethylacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxamide | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)N)(F)F | C14H9F3N4O
